US05244863
To a solution of 2-imino-3-(3-trifluoromethylphenyl)-5-ethylthiazoline (0.5 g) and triethylamine (0.6 g) in chloroform (30 ml), isovaleryl chloride (0.8 g) was dropwise added under stirring at room temperature, and stirring was continued for 2 hours. After removal of the solvent under reduced pressure, the concentrated residue was extracted with ethyl acetate (100 ml), washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was subjected to column chromatography to give 0.2 g of 2-isovalerylimino-3-(3-trifluoromethylphenyl)-5-ethylthiazoline (Compound No. 16).

reactant | 2-imino-3-(3-trifluoromethylphenyl)-5-ethylthiazoline | 0.5 g | N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)CC | C12H11F3N2S
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
reactant | isovaleryl chloride | 0.8 g | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-isovalerylimino-3-(3-trifluoromethylphenyl)-5-ethylthiazoline | 0.2 g | C(CC(C)C)(=O)N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)CC | C17H19F3N2OS
